*IRF9511 MCE  5/27/98
*80V 3A 1ohm Power MOSFET pkg:TO-220 2,1,3
.SUBCKT IRF9511  10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.474
RS  40  3  26M
RG  20  2  50
CGS  2  3  150P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  385P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=167K THETA=60M ETA=2M VTO=-3 KP=0.978)
.MODEL DCGD D (CJO=385P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=12.5N N=1.5 RS=0.25 BV=80 CJO=237P VJ=0.8 M=0.42 TT=120N)
.MODEL DLIM D (IS=100U)
.ENDS 

