**************************************
* Model Generated by MODPEX          *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved                *
* UNPUBLISHED LICENSED SOFTWARE      *
* Contains Proprietary Information   *
* Which is The Property of           *
* SYMMETRY OR ITS LICENSORS          *
*Commercial Use or Resale Restricted *
* by Symmetry License Agreement      *
**************************************
* Model generated on Mar 25, 01
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
.SUBCKT irf1010e 1 2 3
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS (LEVEL=1 IS=1e-32
+VTO=3.89092 LAMBDA=0.00370047 KP=163.717
+CGSO=3.02161e-05 CGDO=1e-11)
RS 8 3 0.00742514
D1 3 1 MD
.MODEL MD D (IS=1.12018e-08 RS=0.00311818 N=1.5 BV=60
+IBV=0.00025 EG=1.2 XTI=4 TT=1.99999e-05
+CJO=2.16483e-09 VJ=3.36625 M=0.649056 FC=0.1)
RDS 3 1 1e+06
RD 9 1 0.0001
RG 2 7 3.92897
D2 4 5 MD1
* Default values used in MD1:
* RS=0 EG=1.11 XTI=3.0 TT=0
* BV=infinite IBV=1mA
.MODEL MD1 D (IS=1e-32 N=50
+CJO=2.60838e-09 VJ=1.21155 M=0.899999 FC=1e-08)
D3 0 5 MD2
* Default values used in MD2:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* BV=infinite IBV=1mA
.MODEL MD2 D (IS=1e-10 N=0.4 RS=3e-06)
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 4.70018e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* RS=0 BV=infinite IBV=1mA
.MODEL MD3 D (IS=1e-10 N=0.4)
.ENDS irf1010e

*SPICE Thermal Model Subcircuit
.SUBCKT irf1010et 3 0

R_RTHERM1         2 3  0.064
R_RTHERM2         1 2  0.161
R_RTHERM3         0 1  0.212
C_CTHERM1         2 3  0.001406
C_CTHERM2         1 2  0.004776
C_CTHERM3         0 1  0.04133

.ENDS irf1010et

